US08895313B2
2-(2-Hydroxy-4-nitrophenyl)benzothiazole
Prepared as described in the Demethylation section above using 2-(2-methoxy-4-nitrophenyl)benzothiazole (0.5 g, 1.75 mmol) in dry DCM (30 ml) was added dropwise at room temperature and BBr3 (1.0 M solution in DCM, 8.8 ml, 8.8 mmol). The reaction mixture was stirred at room temperature for 18 h. The reaction was quenched by addition of MeOH (5 ml) and extracted with 8% w/v NaOH (5×35 ml). The combined aqueous extracts were acidified with 6 M HCl and extracted with EtOAc (3×70 ml). The combined organic extracts were washed with brine (40 ml), dried (Na2SO4) and the solvent removed under reduced pressure to give a solid which was purified by flash chromatography (1:1 Hexane/EtOAc) to give the title compound (0.47 g, 99%) as a pale yellow solid after work-up and flash chromatography (1:1 Hexane/EtOAc).

reactant | 2-(2-methoxy-4-nitrophenyl)benzothiazole | 1.75 mmol, 0.5 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C14H10N2O3S
reactant | BBr3 | 8.8 mmol, 1.0 M, 8.8 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxy-4-nitrophenyl)benzothiazole | 0.47 g, 99% | OC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C13H8N2O3S
